US08492559B2
Stage III: 2-(7-(Aminomethyl)-1H-indol-1-yl)acetic acid
Raney Ni (7.0 g) was added to a solution of 2-(7-cyano-1H-indol-1-yl)acetic acid (700 mg, 3.5 mmol) in MeOH (15 ml), and the mixture was hydrogenated for 6 h at RT and 60 psi hydrogen in a Parr apparatus. The reaction mixture was filtered over celite and the filtrate was concentrated under vacuum. The crude product so obtained was used directly in the following stage without being purified further. Yield: 96% (692 mg, 3.36 mmol)

reactant | 2-(7-cyano-1H-indol-1-yl)acetic acid | 3.5 mmol, 700 mg | C(#N)C=1C=CC=C2C=CN(C12)CC(=O)O | C11H8N2O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 15 ml | CO | CH4O
catalyst | Ni | 7.0 g | [Ni] | Ni
product | 2-(7-(Aminomethyl)-1H-indol-1-yl)acetic acid | Yield: 96% | NCC=1C=CC=C2C=CN(C12)CC(=O)O | C11H12N2O2
